US05607934
8.68 g of dicyclohexylcarbodiimide was added to 200 ml of a solution of 8.73 g of 3-(3-indolyl)-2-hydroxyiminopropionic acid and 4.83 g of N-hydroxysuccinimide in anhydrous dioxane, with ice-cooling. The mixture was stirred at room temperature for 2 hours. The reaction mixture was filtered to remove the insoluble materials, to obtain a brown solution. Separately, 5.6 ml of triethylamine was added to 70 ml of a suspension of 7.27 g of methyl L-leucinate hydrochloride in anhydrous dioxane. The mixture was stirred at room temperature for 2 hours. Thereto was added the above brown solution. The mixture was stirred for 16 hours. The reaction mixture was diluted with 700 ml of ethyl acetate. The resulting solution was washed with 1N hydrochloric acid, an aqueous solution saturated with sodium chloride and an aqueous solution saturated with sodium hydrogen carbonate in this order, then dried with anhydrous magnesium sulfate, and subjected to distillation to remove the solvent, to obtain 13.81 g of methyl N-[2-hydroxyimino-3-(3-indolyl)propionyl]-L-leucinate as a brown oily substance.

reactant | dicyclohexylcarbodiimide | 8.68 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-(3-indolyl)-2-hydroxyiminopropionic acid | 8.73 g | N1C=C(C2=CC=CC=C12)CC(C(=O)O)=NO | C11H10N2O3
reactant | N-hydroxysuccinimide | 4.83 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | methyl L-leucinate hydrochloride | 7.27 g | Cl.N[C@@H](CC(C)C)C(=O)OC
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
product | methyl N-[2-hydroxyimino-3-(3-indolyl)propionyl]-L-leucinate | 13.81 g | ON=C(C(=O)N[C@@H](CC(C)C)C(=O)OC)CC1=CNC2=CC=CC=C12 | C18H23N3O4
